US05194664
1-(4-Carbomethoxyphenyl)-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)ethanedione
7.9 g (33 mmol) of potassium tert-butanolate were added a little at a time to a suspension of 34.5 g (66 mmol) of 4-carbomethoxybenzyltriphenylphosphonium bromide were added in 200 ml of dry toluene at room temperature. The mixture was stirred for 10 min and then heated to reflux, and 7.5 g (33 mmol) of 5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene-2-carbonyl chloride were added dropwise. After the solution had become colorless again it was allowed to cool and solids were filtered off. The filtrate was concentrated, and the remaining oil was recrystallized from methanol (11.2 g of the ylide intermediate of melting point 101°-203° C.). 3.2 g of the ylide and 3.1 g of sodium periodate were refluxed in a mixture of 40 ml of ethanol and 10 ml of water for 1 h. Saturated brine was added to the cooled reaction mixture, which was then extracted with methylene chloride. The organic phase was dried over magnesium sulfate and concentrated. The residue was triturated in n-heptane, the solids were filtered off, and the filtrate was concentrated. Recrystallization from ethanol yielded 1.5 g of the title compound of melting point 93°-96° C.

reactant | potassium tert-butanolate | 33 mmol, 7.9 g | C(C)(C)(C)[O-].[K+]
reactant | 4-carbomethoxybenzyltriphenylphosphonium bromide | 66 mmol, 34.5 g | [Br-].C(=O)(OC)C1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene-2-carbonyl chloride | 33 mmol, 7.5 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)Cl)C | C15H19ClO
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-Carbomethoxyphenyl)-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)ethanedione | 1.5 g | C(=O)(OC)C1=CC=C(C=C1)C(C(=O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)=O | C24H26O4
